US07919628B2
To a solution of 0.16 g of 4-[4-chloro-2-(1-ethoxycarbonyl-1-methyl-propylcarbamoyl)-naphthalen-1-yloxymethyl]-piperidine-1-carboxylic acid tert-butyl ester in 8 mL dichloromethane was added 4 mL of TFA at room temperature. This mixture was stirred at room temperature for 1 hour and then concentrated to dryness in vacuo. The residue was treated with 7 M NH3 in MeOH to adjust to pH 9. It was then chromatographed on silica with 7 N NH3 in MeOH/dichloromethane to provide 72 mg 2-{[4-chloro-1-(piperidin-4-yl-methoxy)-naphthalene-2-carbonyl]-amino}-2-methyl-butyric acid ethyl ester.

reactant | 4-[4-chloro-2-(1-ethoxycarbonyl-1-methyl-propylcarbamoyl)-naphthalen-1-yloxymethyl]-piperidine-1-carboxylic acid tert-butyl ester | 0.16 g | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=C(C2=CC=CC=C12)Cl)C(NC(CC)(C)C(=O)OCC)=O | C29H39ClN2O6
reactant | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | 2-{[4-chloro-1-(piperidin-4-yl-methoxy)-naphthalene-2-carbonyl]-amino}-2-methyl-butyric acid ethyl ester | 72 mg | C(C)OC(C(CC)(C)NC(=O)C1=C(C2=CC=CC=C2C(=C1)Cl)OCC1CCNCC1)=O | C24H31ClN2O4
